US07626021B2
4 N aqueous lithium hydroxide (0.43 ml, 1.71 mmol) was added to 5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-isophthalamic acid methyl ester (0.80 g, 1.43 mmol) in water/methanol(3:1) and stirred at room temperature for 16 hours, water was added and the mixture was extracted with ethyl acetate (3×), the combined organic layers were dried over magnesium sulfate and purified by silica gel chromatography to give 5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-isophthalamicacid (717 mg, 92% yield) of an off white powder. MS: m/z 546.7 (M+H+).

reactant | lithium hydroxide | 1.71 mmol, 4 N, 0.43 ml | [OH-].[Li+]
reactant | 5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-isophthalamic acid methyl ester | 1.43 mmol, 0.80 g | COC(C1=CC(C(=O)N(C)C)=CC(=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C)=O | C30H36N4O5Si
reactant | water | O | H2O
solvent | water methanol | O.CO
product | 5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-isophthalamicacid | 717 mg, 92% yield | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)C=2C=C(C=C(C(=O)O)C2)C(=O)N(C)C)COCC[Si](C)(C)C | C29H34N4O5Si
